US06750232B2
2-Amino-5-(4-cyanophenyl)-6-(2-furyl)nicotinonitrile
2-Amino-5-bromo-6-(2-furyl)nicotinonitrile (20 mg, 75.7 μmol), 4-cyanophenylboric acid (30 mg, 204 μmol), dichlorobis(acetonitrile) palladium (II) (2 mg, 7.71 μmol), and a solution of 2 M aqueous potassium carbonate (150 μL, 300 μmol) in N,N-dimethylformamide (0.6 mL) was stirred at 80° C. for 14 hours. After cooling as it was, the reaction solution was diluted with ethyl acetate and water. After filtering off the insoluble matters, the organic layer in the filtrate was concentrated. A half of the residue was purified by HPLC on a reverse phase column and using a water-acetonitrile-trifluoroacetic acid system as the elution solvent, to give the title compound (3.33 mg).

reactant | 2-Amino-5-bromo-6-(2-furyl)nicotinonitrile | 75.7 μmol, 20 mg | NC1=C(C#N)C=C(C(=N1)C=1OC=CC1)Br | C10H6BrN3O
reactant | 4-cyanophenylboric acid | 204 μmol, 30 mg | C(#N)C1=CC=C(C=C1)OB(O)O | C7H6BNO3
reactant | potassium carbonate | 300 μmol, 2 M, 150 μL | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 0.6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Amino-5-(4-cyanophenyl)-6-(2-furyl)nicotinonitrile | 3.33 mg | NC1=C(C#N)C=C(C(=N1)C=1OC=CC1)C1=CC=C(C=C1)C#N | C17H10N4O
